US09085555B2
(2S,4R)-2-[(S)-1-(3-Chloro-2-fluoro-phenyl)-2-methoxy-ethylcarbamoyl]-4-fluoro-4-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester
was prepared according to Scheme B9 (Step B) from (2S,4R)-2-[(S)-1-(3-chloro-2-fluoro-phenyl)-2-hydroxy-ethylcarbamoyl]-4-fluoro-4-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester. TLC, Rf (EtOAc)=0.90; MS (UPLC-MS): 433.4/435.4 [M+H]+, 477.4 [M+HCOO]−; tR (HPLC conditions a): 3.73 min.

reactant | (2S,4R)-2-[(S)-1-(3-chloro-2-fluoro-phenyl)-2-hydroxy-ethylcarbamoyl]-4-fluoro-4-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@](C1)(C)F)C(N[C@H](CO)C1=C(C(=CC=C1)Cl)F)=O | C19H25ClF2N2O4
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | (2S,4R)-2-[(S)-1-(3-Chloro-2-fluoro-phenyl)-2-methoxy-ethylcarbamoyl]-4-fluoro-4-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@](C1)(C)F)C(N[C@H](COC)C1=C(C(=CC=C1)Cl)F)=O | C20H27ClF2N2O4
